US07402585B2
Dimethyl sulfate (1.04 ml, 11.0 mmol) was added dropwise to a mixture of potassium carbonate (3.34 g, 24.2 mmol) and 2-amino-4,6-dimethoxybenzoic acid (2.56 g, 11.0 mmol) in dimethylformamide (70 ml) at 0° C. The reaction was stirred for 1 hour, then poured into water. The resulting precipitate was filtered, washed with water and dried in vacuo. The filtrate was extracted with ethyl acetate, and the combined organic extracts were dried (magnesium sulphate) and concentrated in vacuo. The combined solids were dried in vacuo to yield methyl 2-amino-4,6-dimethoxybenzoate (1.8 g, 77% yield) as a yellow crystalline solid:

reactant | Dimethyl sulfate | 11.0 mmol, 1.04 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 24.2 mmol, 3.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-4,6-dimethoxybenzoic acid | 11.0 mmol, 2.56 g | NC1=C(C(=O)O)C(=CC(=C1)OC)OC | C9H11NO4
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | methyl 2-amino-4,6-dimethoxybenzoate | 1.8 g, 77% yield | NC1=C(C(=O)OC)C(=CC(=C1)OC)OC | C10H13NO4
